US06413995B1
3.71 g of N-methyl-N-(3-pyridylmethyl)trifluoroacetic acid amide was dissolved in a mixture of 20 ml methanol and 20 ml water, and then stirred with 1.36 g of sodium hydroxide at room temperature for 6 hours. The reaction mixture was made acidic (pH 2) with concentrated hydrochloric acid on ice, and the resulting acidic solution was concentrated under reduced pressure to give a residue. After addition of ethanol, the residue was filtered to remove the precipitated inorganic salts. The filtrate was concentrated under reduced pressure, dried and then recrystallized from methanol/ethanol to give 3-(methylaminomethyl)pyridine dihydrochloride (3.16 g, 95%).

reactant | N-methyl-N-(3-pyridylmethyl)trifluoroacetic acid amide | 3.71 g | CN(C(C(F)(F)F)=O)CC=1C=NC=CC1 | C9H9F3N2O
reactant | sodium hydroxide | 1.36 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 3-(methylaminomethyl)pyridine dihydrochloride | 3.16 g, 95% | Cl.Cl.CNCC=1C=NC=CC1 | InChI=1S/C7H10N2.2ClH/c1-8-5-7-3-2-4-9-6-7;;/h2-4,6,8H,5H2,1H3;2*1H
